Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7]([H:8])([H:9])[O:10][H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11],-3.4927417072400004
[C:5](=[C:6]([H:7])[H:8])=[C:9]([H:10])[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-0.6688783451
[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.611287989019999
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-4.142003504780003
[C:7]([H:8])([H:9])[H:10].[H:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.38481826288
[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4],1.6800297673700002
[O:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:9]([H:10])([H:11])[H:12],3.39391549206
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10].[O:11][H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],-2.91683176497
[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.84812179014
[O:1]=[C:2]([H:3])/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])=[C:7][H:8],4.81245376329
[C:1]=[C:2]([C:4](=[O:5])[H:6])[C:7](=[O:8])[H:9].[H:3]>>[C:1][C:2]([H:3])([C:4](=[O:5])[H:6])[C:7](=[O:8])[H:9],-1.56037912792
[C:2](\[O:3][C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-6.60115753931
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])[H:9],4.01382686847
[O:1]=[C:2]=[C:3][C:9]([C:4][C:5]([H:6])([H:7])[H:8])([H:10])[H:11]>>[O:1]=[C:2][C:3]1=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]1([H:10])[H:11],-2.43143461953
[O:1]=[C:2](/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])[O:10][H:11]>>[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([C:3]#[C:4][H:5])[O:10][H:11],1.75224916571
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:11]([H:12])([H:13])[H:14],1.96792170513
[H:5].[O:1]=[C:2][O:3][C:4]#[C:6][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2][O:3]/[C:4]([H:5])=[C:6]\[C:7]([H:8])([H:9])[H:10],-2.51774152416
[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7].[C:8](=[O:9])[H:10]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10],-2.66216584475
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][H:8]>>[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:7][H:8],3.5287105387300004
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],1.94911305027
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[O:8][C:9]([H:10])([H:11])[H:12].[H:7],1.93456253197
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4](\[H:5])(=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2][H:3],1.2288340691600002
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10].[H:1][C:2],8.574502204489999
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],3.8804976979300014
[H:1][C:2][O:3][C:4]#[C:5][C:6]#[C:7][H:8]>>[C:6]#[C:7][H:8].[H:1][C:2][O:3][C:4]#[C:5],7.2035036359000015
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-1.0624721956899998
[H:1][C:2]#[C:3][O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9],3.6509318087
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10],2.40850947324
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7],4.37451294583
